US06284894B1
To a solution of t-butylnitrite (535 μl, 4.5 mmol) and allyl bromide (3.9 ml, 45.0 mmol) in CH3CN (30 ml), 4-nitroaniline (414 mg, 3.0 mmol) was added during 20 minutes, while maintaining the temperature of the reaction mixture at 34-36° C. At the end of the addition of the aniline, extra t-butylnitrite (180 μl, 1.5 mmol) was added to the reaction mixture which then was stirred at 35° C. for one hour. The volatile material in the reaction mixture was removed at reduced pressure. Column chromatography (heptane-ethyl acetate 23:2) gave 330 mg of 4-allylnitrobenzene as a light yellow oil containing 15% of 4-bromonitrobenzene. This corresponds to 55% yield of 4-allylnitrobenzene. 1H NMR (CDCl3, 300 MHz) δ 8.16, (m, 2H, J=8.6 Hz), 7.35, (m, 2H, J 8.6 Hz), 6.02-5.88, (m, 1H), 5.19-5.08, (m, 2H), 3.49, (d, 2H, J=6.6 Hz).

reactant | t-butylnitrite | 4.5 mmol, 535 μl | C(C)(C)(C)ON=O | C4H9NO2
reactant | allyl bromide | 45.0 mmol, 3.9 ml | C(C=C)Br | C3H5Br
reactant | 4-nitroaniline | 3.0 mmol, 414 mg | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | t-butylnitrite | 1.5 mmol, 180 μl | C(C)(C)(C)ON=O | C4H9NO2
solvent | CH3CN | 30 ml | CC#N | C2H3N
product | 4-allylnitrobenzene | 330 mg | C(C=C)C1=CC=C(C=C1)[N+](=O)[O-] | C9H9NO2
